US07173038B1
A solution of 7-benzyloxy-4-(2-fluoro-4-methylanilino)-6-methoxyquinazoline hydrochloride (2 g, 4.7 mmol) in TFA (20 ml) was heated at 80° C. for 5 hours and stirred at ambient temperature overnight. The volatiles were removed under vacuum and the residue was suspended in water (50 ml). Solid sodium hydrogen carbonate was added until the pH was approximately 7. The precipitate was then collected by filtration, washed with water and dried under vacuum. The solid was purified by column chromatography eluting with methanol/methylene chloride (5/95). After removal of the solvent by evaporation, the solid was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(2-fluoro-4-methylanilino)-7-hydroxy-methoxyquinazoline (1.04 g, 74%).

reactant | 7-benzyloxy-4-(2-fluoro-4-methylanilino)-6-methoxyquinazoline hydrochloride | 4.7 mmol, 2 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)C)F)OC
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-fluoro-4-methylanilino)-7-hydroxy-methoxyquinazoline | 1.04 g, 74% | FC1=C(NC2=NC(=NC3=CC(=CC=C23)O)OC)C=CC(=C1)C | C16H14FN3O2
